US05516774
10,11-Dihydro-10-(4-aminobenzoyl)-5H-imidazo[2,1-c]-[1,4]benzodiazepine
To a solution of 5 mmol of 10,11-dihydro-10-(4-nitrobenzoyl)-5H-imidazo[2,1-c][1,4]benzodiazepine in 100 ml of ethyl alcohol is added 0.5 g of 10% Pd/C and 10 mmol of hydrazine followed by stirring and heating under reflux for 3 hours. The reaction mixture is filtered through diatomaceous earth. The filtrate is concentrated in vacuo to a residue which is dissolved in methylene chloride and passed through a pad of hydrous magnesium silicate. The filtrate is concentrated in vacuo to give the desired product which is purified by flash chromatography to give the desired product as a solid.

reactant | 10,11-dihydro-10-(4-nitrobenzoyl)-5H-imidazo[2,1-c][1,4]benzodiazepine | 5 mmol | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CN3)C=C1 | C18H14N4O3
reactant | hydrazine | 10 mmol | NN | H4N2
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 10,11-Dihydro-10-(4-aminobenzoyl)-5H-imidazo[2,1-c]-[1,4]benzodiazepine | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CN3)C=C1 | C18H16N4O
